US05358946
A solution of ethanolamine (8.00 mL, 133 mmol) and triethylamine (20.0 mL, 143 mmol) in tetrahydrofuran (200 mL) was cooled to 0° C., and a solution of heptanoyl chloride (20.0 mL, 129 mmol) in tetrahydrofuran (50 mL) was added dropwise over 30 minutes. After stirring an additional 18 hours, the reaction mixture was poured into water (400 mL), and extracted with methylene chloride (2×300 mL). The extracts were combined, dried over anhydrous magnesium sulfate and evaporated to afford the solid product (N-(2-hydroxyethyl)-heptanamide), which was recrystallized to purity from ether-hexane (22.3 g, 129 mmol, 100%), melting point 91°-93° C. 1H NMR (CDCl3): 6.31 (1H, br s); 3.75-3.68 (2H, m); 3.55-3.39 (3H, m); 2.21 (2H, t, J=7.2 Hz); 1.69-1.58 (2H, m); 1.39-1.24 (6H, m); 0.88 (3H, t, J=6.6 Hz).

reactant | ethanolamine | 133 mmol, 8.00 mL | C(O)CN | C2H7NO
reactant | triethylamine | 143 mmol, 20.0 mL | C(C)N(CC)CC | C6H15N
reactant | heptanoyl chloride | 129 mmol, 20.0 mL | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | water | 400 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(2-hydroxyethyl)-heptanamide | OCCNC(CCCCCC)=O | C9H19NO2
